US08030499B2
Step 233-1: Synthesis of 5-chloro-3-hydroxy-3-[2-(methylthio) phenyl]-1,3-dihydro-2H-indol-2-one
With 15.0 g of 1-bromo-2-(methylthio) benzene and 10.3 g of 5-chloroisatin as starting materials, 11.5 g of the title compound (orange red solid) was obtained by a similar method to Step 21-1.

reactant | 1-bromo-2-(methylthio) benzene | 15.0 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | 5-chloroisatin | 10.3 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-hydroxy-3-[2-(methylthio) phenyl]-1,3-dihydro-2H-indol-2-one | 11.5 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)SC)O | C15H12ClNO2S
